US08563715B2
The synthesis method shall be explained concretely, and in order, below. To a solution of 5-amino-4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine (425 mg, 1.0 mmol) in acetonitrile (10 ml), formalin (0.8 ml, 10 mmol), sodium cyanotrihydridoborate (188 mg, 3.0 mmol), and acetic acid (0.1 ml) was added and this was agitated for 1 hour. 2N NaOH solution was added, and extraction was carried out 2 times with dichloromethane. After washing the organic layer with saturated saline, drying was done with MgSO4, and the solvent was distilled away under reduced pressure. Purification was done by silica gel chromatography (hexane:ethyl acetate=2:1), and 260 mg of 5-dimethylamino-4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine (yield 57%) was obtained. The melting point measurement result, the MS measurement result, and the NMR data for the obtained Compound 141 are shown below.

reactant | 5-amino-4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine | 1.0 mmol, 425 mg | NC=1C(=NC(=NC1N1CCOCC1)N1CCN(CC1)C1=CC=CC=C1)N1CCOCC1 | C22H31N7O2
reactant | formalin | 10 mmol, 0.8 ml | C=O | CH2O
reactant | sodium cyanotrihydridoborate | 3.0 mmol, 188 mg | C(#N)[BH3-].[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | 5-dimethylamino-4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine | 260 mg, yield 57% | CN(C=1C(=NC(=NC1N1CCOCC1)N1CCN(CC1)C1=CC=CC=C1)N1CCOCC1)C | C24H35N7O2
